US05591853
Production of 2-chloropyrimidine-4-carboxylic Acid Butyl Ester
A solution of 0.52 g (2.93 mmol) of 2-chloropyrimidine-4-carboxylic acid chloride in 10 ml of butanol was stirred for 1.5 hours at room temperature. Then the reaction solution was poured on 80 ml of NaHCO3 solution and extracted three times with 60 ml of ethyl acetate each. The combined organic phase was washed with 60 ml of saturated NaCl solution, dried on Na2SO4 and concentrated by evaporation on a rotary evaporator. After drying of the product on a high vacuum, 0.53 g of product was obtained as a white solid, corresponding to a yield of 85 percent relative to the 2-chloropyrimidine-4-carboxylic acid chloride used. The melting point of the product was 67.9° to 68.8° C. Other data for the product was:

reactant | 2-chloropyrimidine-4-carboxylic acid chloride | 2.93 mmol, 0.52 g | ClC1=NC=CC(=N1)C(=O)Cl | C5H2Cl2N2O
reactant | NaHCO3 | 80 ml | C(=O)(O)[O-].[Na+]
reactant | butanol | 10 ml | C(CCC)O | C4H10O
product | 2-chloropyrimidine-4-carboxylic Acid Butyl Ester | 0.53 g, yield of 85 percent | C(CCC)OC(=O)C1=NC(=NC=C1)Cl | C9H11ClN2O2
